US06933387B2
a) (Z)-2-Azido-3-(3-fluoro-4-methyl-phenyl)-acrylic acid ethyl ester
To ethanol (200 ml) was added portionwise 6.7 g sodium metal in such a way that the temperature stayed below 50° C. After all sodium had dissolved, the temperature was brought to −5° C. and a solution of 3-fluoro-4-methylbenzaldehyde (10.0 g, 0.072 mol) and azido acetic acid ethyl ester (37.4 g, 0.29 mol) in 100 ml ethanol was added while maintaining the temperature below 5° C. After 3 h the orange-red solution was poured on saturated aqueous ammonium chloride solution and ethyl acetate (300 ml) and water (100 ml) was added. The phases were separated, the aqueous phase was reextracted three times with ethyl acetate (300 ml each) and the combined organic layers were washed with brine (400 ml) and dried over magnesium sulfate. The crude reaction product was purified by column chromatography over silical gel (0.030-0.063 mm) with n-hexane/tert-butyl methyl ether (50/1) as eluent to yield the title product as a yellow oil (9.8 g, 54.2%). EI-MS: m/e=249.1 (M)

reactant | sodium | 6.7 g | [Na] | Na
reactant | 3-fluoro-4-methylbenzaldehyde | 0.072 mol, 10.0 g | FC=1C=C(C=O)C=CC1C | C8H7FO
reactant | azido acetic acid ethyl ester | 0.29 mol, 37.4 g | C(C)OC(CN=[N+]=[N-])=O | C4H7N3O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | (Z)-2-Azido-3-(3-fluoro-4-methyl-phenyl)-acrylic acid ethyl ester | 9.8 g, 54.2% | C(C)OC(/C(=C/C1=CC(=C(C=C1)C)F)/N=[N+]=[N-])=O | C12H12FN3O2
